US04818276
To a stirred solution of 30.0 g (0.12 mole) of 4-bromo-2-fluoro-5-methoxynitrobenzene in 200 mL of acetic acid was added 40 mL of water, followed by the portionwise addition of 30.0 g (0.54 mole) of iron filings during a 2.5 hour period. Upon complete addition, the reaction mixture was stirred at 25°-35° C. for one hour. Diethyl ether, 200 mL, was added, and the reaction mixture was filtered through a pad of diatomaceous earth. The filtrate was washed with 200 mL of water. The organic layer was separated and neutralized with solid sodium bicarbonate. The mixture was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give a residual solid. The solid was recrystallized from petroleum ether to give 23.5 g of 4-bromo-2-fluoro-5-methoxyaniline; m.p. 60°-62° C.

reactant | 4-bromo-2-fluoro-5-methoxynitrobenzene | 0.12 mole, 30.0 g | BrC1=CC(=C(C=C1OC)[N+](=O)[O-])F | C7H5BrFNO3
reactant | water | 40 mL | O | H2O
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.54 mole, 30.0 g | [Fe] | Fe
product | 4-bromo-2-fluoro-5-methoxyaniline | 23.5 g | BrC1=CC(=C(N)C=C1OC)F | C7H7BrFNO
